US07189738B2
N-{2-[3-(4-Acetyl-1-piperazinyl)-3-oxopropyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide
90 mg (0.2 mmol) of 5-chloro-N-{1,3-dioxo-2-[3-oxo-3-(1-piperazinyl)propyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide and 41 mg (0.4 mmol) of triethylamine are dissolved in 10 ml of THF, and 20.6 mg (0.2 mmol) of acetic anhydride are added. The reaction mixture is stirred at room temperature for 5 h, diluted with methylene chloride, washed with water, dried over magnesium sulfate, filtered and concentrated. This gives 81 mg (82% of theory) of the product.

reactant | 5-chloro-N-{1,3-dioxo-2-[3-oxo-3-(1-piperazinyl)propyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | 0.2 mmol, 90 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC(N1CCNCC1)=O)=O | C20H19ClN4O4S
reactant | triethylamine | 0.4 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.2 mmol, 20.6 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{2-[3-(4-Acetyl-1-piperazinyl)-3-oxopropyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide | C(C)(=O)N1CCN(CC1)C(CCN1C(C2=CC=CC(=C2C1=O)NC(=O)C=1SC(=CC1)Cl)=O)=O | C22H21ClN4O5S
